US07550598B2
(Z)-3-cyclopropyl-4-(isoquinolin-1 (2H)-ylidene)-1H-pyrazol-5(4H)-one
3-Cyclopropyl-1H-pyrazol-5(4H)-one (0.03 g, 0.27 mmol) and isoquinoline N-oxide (0.04 g, 0.27 mmol) were stirred in acetic anhydride (0.5 mL) for 30-40 minutes. The reaction mixture was concentrated and purified by LC-MS to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.78-0.86 (m, 4H) 1.77-1.86 (m, 1H) 7.91 (t, J=7.71 Hz, 1H) 8.10 (t, J=7.58 Hz, 1H) 8.26 (d, J=8.59 Hz, 3H) 8.58 (d, J=6.57 Hz, 1H); ESI-MS: m/z calc'd for C15H13N3O 251.28. found 252.2 (M+H)+.

reactant | 3-Cyclopropyl-1H-pyrazol-5(4H)-one | 0.27 mmol, 0.03 g | C1(CC1)C1=NNC(C1)=O | C6H8N2O
reactant | isoquinoline N-oxide | 0.27 mmol, 0.04 g | C1=[N+](C=CC2=CC=CC=C12)[O-] | C9H7NO
solvent | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (Z)-3-cyclopropyl-4-(isoquinolin-1 (2H)-ylidene)-1H-pyrazol-5(4H)-one | C1(CC1)C/1=NNC(\C1=C\1/NC=CC2=CC=CC=C12)=O | C15H13N3O
